US05958918
D. N-Cbz-7-aminonaphthalene-2-sulfonic acid-[1-(5-cyanothiophen-3-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]benzylamide
N-Cbz-7-aminonaphthalene-2-sulfonic acid-[1-(5-cyanothiophen-3-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]amide (0.56 g, 1.01 mmol) is dissolved in 10 mL of DMF and cooled to 0° C. Sodium hydride (42 mg of a 60% dispersion in mineral oil, 1.06 mmol) is added and the solution is stirred for 20 minutes. To the mixture is added benzyl bromide (0.18 g, 1.06 mmol). The reaction mixture is stirred at 0° C. for 20 minutes and then at room temperature for 1.5 hours. The solution is poured into a separatory funnel and diluted with 100 mL of EtOAc. The organic layer is washed with water, 1 N HCl and saturated NaCl solution, then dried over MgSO4, filtered and concentrated. The crude residue is purified by column chromatography eluting with a gradient of 25% EtOAc/CH2Cl2 to 50% EtOAc/CH2Cl2 to give the title compound (0.34 g, 0.53 mmol) as a solid.

reactant | N-Cbz-7-aminonaphthalene-2-sulfonic acid-[1-(5-cyanothiophen-3-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]amide | 1.01 mmol, 0.56 g | C(#N)C1=CC(=CS1)CN1C([C@H](CC1)NS(=O)(=O)C1=CC2=CC(=CC=C2C=C1)NC(=O)OCC1=CC=CC=C1)=O | C28H24N4O5S2
reactant | Sodium hydride | [H-].[Na+]
reactant | benzyl bromide | 1.06 mmol, 0.18 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | N-Cbz-7-aminonaphthalene-2-sulfonic acid-[1-(5-cyanothiophen-3-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]benzylamide | 0.53 mmol, 0.34 g | C(#N)C1=CC(=CS1)CN1C([C@H](CC1)N(S(=O)(=O)C1=CC2=CC(=CC=C2C=C1)NC(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1)=O | C35H30N4O5S2
